US07288544B2
Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-nicotinic acid (3,3-diphenylpropyl) ester
447 mg (2.33 mmol) of WSC hydrochloride and 0.254 ml (2.29 mmol) of N-methylpiperazine in the ice bath were added to 952 mg (1.90 mmol) of 4-(3-chlorophenyl)-2,6-dimethylpyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester in 40 ml of dichloromethane and stirred at room temperature for 2 nights. Saturated aqueous sodium hydrogencarbonate solution was added and the reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=9/1) to obtain the title compound as a by-product.

reactant | WSC hydrochloride | 2.33 mmol, 447 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-methylpiperazine | 2.29 mmol, 0.254 ml | CN1CCNCC1 | C5H12N2
reactant | 4-(3-chlorophenyl)-2,6-dimethylpyridine-3,5-dicarboxylic acid mono (3,3-diphenylpropyl) ester | 1.90 mmol, 952 mg | C1(=CC=CC=C1)C(CCOC(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C)C1=CC=CC=C1 | C30H26ClNO4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-2,6-dimethyl-nicotinic acid (3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(C1=C(N=C(C=C1C1=CC(=CC=C1)Cl)C)C)=O)C1=CC=CC=C1 | C29H26ClNO2
